US07399759B2
N-(6-Aminohexyl)-6-(4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridinecarboxamide hydrochloride
tert-Butyl [[[6-(4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]carbonyl]amino]hexylcarbamate (0.30 g, 0.62 mmol) was dissolved in ethyl acetate (15 ml), and a solution of 4 N hydrochloric acid in ethyl acetate (2.0 ml, 8.0 mmol) was added thereto under ice cooling condition. The reaction mixture was stirred at the same temperature for 3 hrs. The precipitated crystals were collected by filtration and recrystallized from methanol-diethyl ether to give the titled compound (0.15 g, 56%)

reactant | tert-Butyl [[[6-(4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]carbonyl]amino]hexylcarbamate | 0.62 mmol, 0.30 g | O=C1N=C(SC2=C1C=CC=C2)C2=CC=CC(=N2)C(=O)NCCCCCCNC(OC(C)(C)C)=O | C25H30N4O4S
reactant | hydrochloric acid | 4 N | Cl | ClH
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 8.0 mmol, 2.0 ml | C(C)(=O)OCC | C4H8O2
product | N-(6-Aminohexyl)-6-(4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridinecarboxamide hydrochloride | 0.15 g, 56% | Cl.NCCCCCCNC(=O)C1=NC(=CC=C1)C=1SC2=C(C(N1)=O)C=CC=C2 | InChI=1S/C20H22N4O2S.ClH/c21-12-5-1-2-6-13-22-19(26)15-9-7-10-16(23-15)20-24-18(25)14-8-3-4-11-17(14)27-20;/h3-4,7-11H,1-2,5-6,12-13,21H2,(H,22,26);1H
